US05807859
5.85 g of 10-(1-tert-butoxycarbonyl-1-hydroxymethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one are heated to 90°-100° C. in 300 ml of dimethylformamide, filtered immediately and 150 ml of methanol and 200 ml of water are added to the filtrate, which is left overnight at a temperature in the region of 5° C. The crystals formed are filtered off, washed with 20 ml of water and dried at 80° C. under vacuum (2 mmHg; 0.26 kPa) to give 3.4 g of 10-(tert-butoxycarbonylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one in the form of a red solid melting above 260° C. (Analysis, % calculated C: 68.05, H: 5.11, N: 12.53, O: 14.31, % found C: 68.0, H: 5.6, N: 12.5, O: 14.3).

reactant | 10-(1-tert-butoxycarbonyl-1-hydroxymethyl)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 5.85 g | C(C)(C)(C)OC(=O)C(O)C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H19N3O4
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 10-(tert-butoxycarbonylmethylene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 3.4 g | C(C)(C)(C)OC(=O)C=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O | C19H17N3O3
